US08466167B2
To a solution of 2-bromo-5-nitroaniline (commercially available) (1.0 eq.) in THF (0.2M) at 0° C. under N2 atmosphere was added dropwise 1M NaHMDS (2.5 eq.). The reaction was stirred for 15 minutes at 0° C., and a solution of di-tert-butyl dicarbonate in THF was added. The reaction was warmed to ambient temperature overnight. The solvent was evaporated, and the resulting residue was quenched with 0.1N HCl aqueous solution. The aqueous suspension was extracted twice with EtOAc. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-30% EtOAc/Hexanes to give tert-butyl 2-bromo-5-nitrophenylcarbamate as a colorless oil.

reactant | 2-bromo-5-nitroaniline | BrC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | NaHMDS | 1M, 2.5 eq. | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 0.2M | C1CCOC1 | C4H8O
product | tert-butyl 2-bromo-5-nitrophenylcarbamate | BrC1=C(C=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C11H13BrN2O4
